US08022223B2
1-(4-(2-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)-2-(dimethylamino)ethanone dihydrochloride
A 20 mL vial was charged with 3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)-N-(4-(piperidin-4-yl)thiazol-2-yl)pyridin-2-amine (40 mg, 0.068 mmol), triethylamine (0.028 mL, 0.20 mmol), and CH2Cl2 (2 mL). 2-(Dimethylamino)acetyl chloride hydrochloride (12.9 mg, 0.0817 mmol) was added and stirred at room temperature for 10 minutes. The reaction was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (15% MeOH in EtOAc with 0.3% ammonia) to afford 1 the title compound (35.6 mg, 70.1% yield) after HCl salt formation. 1H NMR (d6-DMSO) δ 11.15 (bs, 1H), 9.60 (bs, 1H), 8.17 (d, 1H), 7.75 (m, 1H), 7.32 (m, 2H), 7.21 (t, 1H), 6.94 (d, 1H), 6.79 (m, 1H), 6.75 (s, 1H), 6.71 (m, 2H), 4.42 (d, 1H), 4.31 (qd, 2H), 3.69 (s, 3H), 3.19 (t, 1H), 2.93 (m, 1H), 2.82 (m, 6H), 2.04 (d, 2H), 1.64 (m, 1H), 1.52 (m, 1H). Mass spectrum (apci) m/z=674.3 (M+H-2HCl).

reactant | 3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)-N-(4-(piperidin-4-yl)thiazol-2-yl)pyridin-2-amine | 0.068 mmol, 40 mg | BrC1=C(OC=2C(=NC=C(C2)SC2=CC(=CC=C2)OC)NC=2SC=C(N2)C2CCNCC2)C=CC(=C1)F | C26H24BrFN4O2S2
reactant | triethylamine | 0.20 mmol, 0.028 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(Dimethylamino)acetyl chloride hydrochloride | 0.0817 mmol, 12.9 mg | Cl.CN(CC(=O)Cl)C
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)-2-(dimethylamino)ethanone dihydrochloride | 35.6 mg, 70.1% yield | Cl.Cl.BrC1=C(OC=2C(=NC=C(C2)SC2=CC(=CC=C2)OC)NC=2SC=C(N2)C2CCN(CC2)C(CN(C)C)=O)C=CC(=C1)F | InChI=1S/C30H31BrFN5O3S2.2ClH/c1-36(2)17-28(38)37-11-9-19(10-12-37)25-18-41-30(34-25)35-29-27(40-26-8-7-20(32)13-24(26)31)15-23(16-33-29)42-22-6-4-5-21(14-22)39-3;;/h4-8,13-16,18-19H,9-12,17H2,1-3H3,(H,33,34,35);2*1H
